US06762180B1
(26) 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-ethyl-methylene]-6-ethoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-ethyl-methylene)-6-ethoxycarbonyl-2-indolinone and 4-(piperidin-1-yl-methyl)-aniline Rf value: 0.9 (silica gel, methylene chloride/ethanol=5:1) C26H31N3O3

reactant | 1-acetyl-3-(1-ethoxy-1-ethyl-methylene)-6-ethoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OCC)=C(CC)OCC)=O | C18H21NO5
reactant | 4-(piperidin-1-yl-methyl)-aniline | N1(CCCCC1)CC1=CC=C(N)C=C1 | C12H18N2
product | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-ethyl-methylene]-6-ethoxycarbonyl-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\CC)=C\2/C(NC3=CC(=CC=C23)C(=O)OCC)=O)C=C1 | C26H31N3O3
